US05438035
Preparation of 4-Tert-butyl-7-ethynyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione
1N Sodium hydroxide solution (3.4 mL) is added to a suspension of 4-tert-butyl-3,4-dihydro-7-[(trimethylsilyl)ethynyl]-1H-1,4-benzodiazepine-2,5-dione (1.0 g, 3.0 mmol) in methanol. The reaction mixture is stirred at room temperature for 2 hours, concentrated in vacuo and extracted with ethyl acetate. The combined organic extracts are washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title product as a light brown solid (0.66 g, mp 216°-219° C.).

reactant | Sodium hydroxide | 1N, 3.4 mL | [OH-].[Na+]
reactant | 4-tert-butyl-3,4-dihydro-7-[(trimethylsilyl)ethynyl]-1H-1,4-benzodiazepine-2,5-dione | 3.0 mmol, 1.0 g | C(C)(C)(C)N1CC(NC2=C(C1=O)C=C(C=C2)C#C[Si](C)(C)C)=O | C18H24N2O2Si
solvent | methanol | CO | CH4O
product | 4-Tert-butyl-7-ethynyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 0.66 g | C(C)(C)(C)N1CC(NC2=C(C1=O)C=C(C=C2)C#C)=O | C15H16N2O2
